US09233946B2
3-[(Biphenyl-3-ylsulfonyl)amino]benzoic acid
The product was prepared according to General Procedure 1, described in Example 1, with 3-phenylbenzenesulfonylchloride (13.9 mg, 0.055 mmol) and 3-aminobenzoic acid (6.9 mg, 0.050 mmol). The title compound was obtained in 100% yield (17.7 mg). MS (ESI+) calcd mass for C19H15NO4S 353.072179, found 353.071899.

reactant | 3-phenylbenzenesulfonylchloride | 0.055 mmol, 13.9 mg | C1(=CC=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H9ClO2S
reactant | 3-aminobenzoic acid | 0.050 mmol, 6.9 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 3-[(Biphenyl-3-ylsulfonyl)amino]benzoic acid | 100% yield | C1(=CC(=CC=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C19H15NO4S
